US05849666
25.0 g (0.087 mol) of methyl 4-amino-2-(N-tert-butylsulfamoyl)benzoate are suspended in a mixture of 150 ml of concentrated HCl and 130 ml of water. A solution of 7.8 g (0.114 mol) of sodium nitrite is added dropwise at 0°-5° C. A small amount of undissolved constituents are filtered off cold and the still cold diazonium salt solution is allowed to run slowly at 0° C. into a suspension of 55.0 g (0.244 mol) of SnCl2.2H2O in 55 ml of concentrated HCl. The mixture is subsequently stirred for 30 minutes and is then left to stand for 15 hours, while cooling with ice. Most of the HCl is first neutralized by addition of 6N NaOH and the pH is then brought to about 6 with solid NaHCO3. The mixture is extracted several times with ethyl acetate, the extracts are dried and the solvent is removed in vacuo. After trituration of the residue with diisopropyl ether and drying, 18.3 g (70% of theory) of methyl 2-(N-tert-butylsulfamoyl)-4-hydrazinobenzoate of melting point 133°-136° C. are obtained.

reactant | methyl 4-amino-2-(N-tert-butylsulfamoyl)benzoate | 0.087 mol, 25.0 g | NC1=CC(=C(C(=O)OC)C=C1)S(NC(C)(C)C)(=O)=O | C12H18N2O4S
reactant | sodium nitrite | 0.114 mol, 7.8 g | N(=O)[O-].[Na+]
reactant | SnCl2.2H2O | 0.244 mol, 55.0 g | O.O.Cl[Sn]Cl
reactant | NaOH | 6N | [OH-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HCl | 150 ml | Cl | ClH
solvent | water | 130 ml | O | H2O
solvent | HCl | 55 ml | Cl | ClH
product | methyl 2-(N-tert-butylsulfamoyl)-4-hydrazinobenzoate | 18.3 g, 70% | C(C)(C)(C)NS(=O)(=O)C1=C(C(=O)OC)C=CC(=C1)NN | C12H19N3O4S
